US06323243B1
3-(-4-Benzyloxy-phenyl)-N1-tert-butyl-N2-(4-tert-butyl-benzyl)-propane-1,2-diamine
A solution of 126 mg (0.26 mmol) N-[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-4-tert-butyl-benzamide in 1 mL dry THF was treated via dropwise addition with 0.78 mL (0.78 mmol) of a 1.0 M solution of borane-THF complex in THF. The resulting solution was heated under reflux for 8 hours. The mixture was cooled to 25° C. and 1 mL of 5 M HCL solution was carefully added, dropwise, followed by neutralization with saturated aqueous sodium bicarbonate. The mixture was extracted with three 7 mL portions of ethyl acetate. The combined extracts were washed with two 25 mL portions brine, dried over anhydrous magnesium sulfate and concentrated to a hazy oil. The oil was purified by column chromatography on silica gel with 5:5:1 ethyl acetate: hexanes:methanol as eluant. There was obtained 58 mg (49%) of a clear, colorless oil that slowly crystallized to white, waxy crystals of title product; mp 63-65° C.

reactant | N-[2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-4-tert-butyl-benzamide | 0.26 mmol, 126 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC(C)(C)C)=O)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C31H38N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(-4-Benzyloxy-phenyl)-N1-tert-butyl-N2-(4-tert-butyl-benzyl)-propane-1,2-diamine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(CNC(C)(C)C)NCC1=CC=C(C=C1)C(C)(C)C | C31H42N2O
